US09056874B2
5,7-Dimethyl-1-tosyl-1H-indole-4-carbaldehyde
To a solution of 4-iodo-5,7-dimethyl-1-tosyl-1H-indole (950 mg, 2.1 mmol) and DMF (0.33 mL, 4.2 mmol) in cyclopentyl methyl ether (22 mL), n-butyllithium in hexane (2.2 M, 1.3 mL, 2.8 mmol) was added at −78° C. After stirring for 1 h, additional n-butyllithium in hexane (2.2 M, 0.19 mL, 0.42 mmol) was added. After stirring for 15 min, the reaction was quenched with MeOH (2 mL) and 1M aq. NaHSO4 (4.5 mL), and diluted with EtOAc and brine. The layers were separated and the aqueous layer was extracted with EtOAc. The organic layers were combined, washed with brine, dried over Na2SO4, and then filtered. Concentration of the filtrate gave a residue that was purified by FCC [(10% DCM/heptane)/(20% EtOAc/DCM)=100/0 to 50/50] to give the title compound. MS (ESI+) m/z 328.2 (M+H).

reactant | 4-iodo-5,7-dimethyl-1-tosyl-1H-indole | 2.1 mmol, 950 mg | IC1=C2C=CN(C2=C(C=C1C)C)S(=O)(=O)C1=CC=C(C)C=C1 | C17H16INO2S
reactant | DMF | 4.2 mmol, 0.33 mL | CN(C)C=O | C3H7NO
reactant | hexane | 2.8 mmol, 2.2 M, 1.3 mL | CCCCCC | C6H14
reactant | hexane | 0.42 mmol, 2.2 M, 0.19 mL | CCCCCC | C6H14
solvent | cyclopentyl methyl ether | 22 mL | COC1CCCC1 | C6H12O
solvent | n-butyllithium | C(CCC)[Li]
product | 5,7-Dimethyl-1-tosyl-1H-indole-4-carbaldehyde | CC1=C(C=2C=CN(C2C(=C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C=O | C18H17NO3S
